US07534788B2
Step 3: ((cis)-2,6-Dimethyl-morpholin-4-yl)-(5-hydroxy-benzofuran-2-yl)-methanone
The above prepared ((cis)-2,6-dimethyl-morpholin-4-yl)-(5-methoxy-benzofuran-2-yl)-methanone (0.614 g, 2.12 mmol) was dissolved in 14 mL of CH2Cl2, cooled to 0° C., and treated with BBr3 (4.24 mL of 1M solution in CH2Cl2, 2 eq.). After 1 additional h at RT, the reaction mixture was carefully poured onto crashed ice, twofold extracted with AcOEt, washed with water, dried over sodium sulfate, and evaporated to dryness. Ensuing flash chromatography (SiO2, hexane/AcOEt=1/1) yielded 0.556 g of the title compound as off-white solid.

reactant | ((cis)-2,6-dimethyl-morpholin-4-yl)-(5-methoxy-benzofuran-2-yl)-methanone | 2.12 mmol, 0.614 g | C[C@@H]1CN(C[C@@H](O1)C)C(=O)C=1OC2=C(C1)C=C(C=C2)OC | C16H19NO4
reactant | BBr3 | 1M, 4.24 mL, 2 eq. | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 14 mL | C(Cl)Cl | CH2Cl2
product | ((cis)-2,6-Dimethyl-morpholin-4-yl)-(5-hydroxy-benzofuran-2-yl)-methanone | 0.556 g | C[C@@H]1CN(C[C@@H](O1)C)C(=O)C=1OC2=C(C1)C=C(C=C2)O | C15H17NO4
